US07476762B2
In another embodiment, a method for preparing 4-chloro-N-[(1S)-4,4,4-trifluoro-1-hydroxymethyl-2-(2,2,2-trifluoroethyl)-butyl]benzenesulfonamide is provided and includes (a) reacting 1,1,1-trifluoro-3-iodopropane with triphenylphosphine to form (3,3,3-trifluoropropyl)-triphenylphosphonium iodide; (b) reacting (3,3,3-trifluoropropyl)-triphenylphosphonium iodide and a base at a temperature of −70° C. to 25° C.; (c) reacting the product of step (b) with ethylchloroformate at a temperature below about −20° C. to form 4,4,4-trifluoro-2-(triphenyl-λ5-phosphanylidene)-butyric acid ester; (d) isolating 4,4,4-trifluoro-2-(triphenyl-λ5-phosphanylidene)-butyric acid ester by hydrocarbon trituration; (e) reacting dehydrated trifluoroacetaldehyde, which is free of acidic impurities, and 4,4,4-trifluoro-2-(triphenyl-λ5-phosphanylidene)-butyric acid ester to form 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-but-2-enoic acid ester; (f) hydrogenating 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-but-2-enoic acid ester to form 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyric acid ester; (g) reacting 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyric acid ester with N,O-dimethylhydroxylamine hydrochloride to form 4,4,4-trifluoro-N-methoxy-N-methyl-2-(2,2,2-trifluoroethyl)-butyramide; (h) reacting 4,4,4-trifluoro-N-methoxy-N-methyl-2-(2,2,2-trifluoroethyl)-butyramide with a first reducing agent to form 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyraldehyde; (i) reacting 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyraldehyde, a titanium alkoxide, and (S)-(+)-p-toluenesulfinamide to form N-methyl-N-[(1S)-4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butylidene]benzenesulfinamide; (j) cyanating N-methyl-N-[(1S)-4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butylidene]benzenesulfinamide to form N-methyl-benzenesulfinic acid [(1S)-1-cyano-4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyl]amide; (k) reacting N-methyl-benzenesulfinic acid [(1S)-1-cyano-4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyl]amide with an aqueous acid; (l) reacting the product of step (k) with an alcohol in the presence of an acid to form (2S)-2-amino-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester; (m) reacting (2S)-2-amino-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester with 4-chlorobenzenesulfonyl chloride to form (2S)-2-(4-chloro-benzenesulfonylamino)-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester; (n) combining (2S)-2-(4-chloro-benzenesulfonylamino)-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester and a second reducing agent to form 4-chloro-N-[(1S)-4,4,4-trifluoro-1-hydroxymethyl-2-(2,2,2-trifluoroethyl)-butyl]benzenesulfonamide; (o) quenching the product of step (n); and (p) isolating the 4-chloro N-[(1S)-4,4,4-trifluoro-1-hydroxymethyl-2-(2,2,2-trifluoroethyl)-butyl]benzenesulfonamide.

reactant | 4-chloro-N-[(1S)-4,4,4-trifluoro-1-hydroxymethyl-2-(2,2,2-trifluoroethyl)-butyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(CC(F)(F)F)CC(F)(F)F)CO | C13H14ClF6NO3S
reactant | 1,1,1-trifluoro-3-iodopropane | FC(CCI)(F)F | C3H4F3I
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (3,3,3-trifluoropropyl)-triphenylphosphonium iodide | [I-].FC(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F | InChI=1S/C21H19F3P.HI/c22-21(23,24)16-17-25(18-10-4-1-5-11-18,19-12-6-2-7-13-19)20-14-8-3-9-15-20;/h1-15H,16-17H2;1H/q+1;/p-1
